Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ year old ___ female with PMHx 
notable for HTN, hyperlipidemia, CAD status post NSTEMI with 
stent placement to LCx and RCA ___ and history of asthma/COPD 
who is presenting to the ED with chest pain and dyspnea.

Patient went to bed last night in baseline state of health, and 
this morning she awoke with chest pain and dyspnea. Describes 
the pain as severe left sided chest pain, not made better with 
SL nitro. Not made worse with exertion or better with rest. Of 
note, admitted to ___ in ___ with chest pains and dyspnea. 
 She ruled out for MI with negative troponins.  She was treated 
for COPD exacerbation. 

Of note, daughter was concerned about an asthma exacerbation and 
feels patient needs her medications optimized.  

In the ED, initial VS were 97.3 ___ 28 100% 
Non-Rebreather   
Exam notable for AAOx3, scattered expiratory wheezes in all 
fields with good air movement, RRR, no JVD, soft NTND, 2+ 
pulses, no ___ swelling 
Labs showed 
- WBC 6.3 H/H 13.3/39.8 Plt 142
- proBNP 1681
- TNT <0.01 -> 0.05
- Lactate 3.8 -> 1.3
- BMP AST 80 hemolyzed -> whole blood K 5.6; repeat BMP Na 139 K 
4.3 HCO3 26 Cl 104 BUn 14 Cr 1.0 
Imaging showed 
- CXR: no acute intrathoracic process
- EKG: sinus 77 NA QTc 494 qIII & avF no acute ST/T wave changes 
c/f ischemia 
Received
- ___ 08:21 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 08:21 IH Ipratropium Bromide Neb 1 NEB 
___ 08:21 SL Nitroglycerin SL .4 mg 
___ 10:18 IV Furosemide 20 mg 
___ 12:42 IVF  NS 500 mL  
___ 16:20 PO Aspirin 324 mg 
 
Transfer VS were 98.1 73 134/57 19 98% RA   
 
Decision was made to admit to medicine for further management 
elevated troponin and asthma exacerbation.  Patient was given 
IVF for lactic acidosis which downtrended and then IV Lasix for 
hyperkalemia.  Of note, nebulizers improved wheezing.  Chest 
pain resolved prior to transfer from ED to floor. 

On arrival to the floor, patient reports resolution of her chest 
pain and dyspnea.  She reports bilateral feet burning and right 
hip pain which is stable and chronic.  When asked if she feels 
short of breath or if she is having trouble breathing she 
reports that her breathing is slow and that it was fast earlier. 
 She feels fine and feels like herself.  Translation obtained by 
her daughter ___.  ___ states at baseline her mother is 
alert and oriented to self and place but not always to year.  
She reports that she awoke earlier this morning and heard her 
mother yelling ___ gonna die" because she couldn't breathe.  She 
gave her mother a nebulizer and attempted to give her a SL nitro 
but the nitro pill fell out of her mouth.  The nebulier didn't 
resolve her dyspnea so ___ called ___.  She reports that her 
mother described feeling cold this morning and looked sweaty but 
denies fevers or cough.  The patient denies a cough, denies 
abdominal pain, nausea, vomiting or changes in urinary patterns. 
 At___ states that she feels like her mother is now behaving as 
baseline.  Atonia states that she gives her mother her 
medications daily but that a niece ___ fills the patient's 
medications.

Atonia reports that her mother's current constellation of 
symptoms are similar to last ___ hospitalzations and that 
her mother often yells ___ gonna die" when she feels like she 
cant breathe well.

Atonia reports she gives her mother nebulizer with two 
medications three times daily (but ___ cannot recall the 
names of the medications) and that the patient takes an 
albuterol inhaler approximately once a day.  She reports that 
the patient takes her Advair twice daily.  ___ reports that 
her mother coughs often when taking the Avdair and her proair 
inhaler. 

REVIEW OF SYSTEMS:  
(+)  
(-) Fever, chills, headache, vision changes, rhinorrhea, 
congestion, sore throat, cough, shortness of breath, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria.  
 
All other 10-system review negative in detail.  
 
Past Medical History:
- Asthma: diagnosed at age ___, but reports since moving to ___ 
___ years ago has had asthma symptoms; hard to interpret PFTs as 
she was unable to participate in the exam; 5 lifetime 
hospitalizations, most recently ___ for COPD exacerbation; 
no history of intubations or MICU admissions 
- CAD s/p PCI to ___ and RCA ___ and subsequent NSTEMI in ___ 
and ___ 
- Hypertension  
- HLD
- Constipation
- Peripheral vascular disease with infrapopliteal disease 
- Adjustment disorder with depressed mood  
- s/p L eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___  
 
Social History:
___
Family History:
Significant family history of asthma (two sons, daughter, and 
grand-daughter). Per ___. She does not know the family history 
of her parents. Her mother died two days after she was born and 
she never knew her father. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=====================
VS:  97.4 145 / 75 71 20 97 RA  
Weight: 119.9lbs (125 lbs ___ office visit)
GENERAL: NAD elderly appearing woman lying at 45 degrees in bed, 
appears comfortable, AAOx2 to self and hospital (baseline)
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
edentulous
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: bibasilar rales, do not clear with coughing; no wheezes, 
or rhonchi, breathing comfortably without use of accessory 
muscles  
ABDOMEN: mildy distended, +BS, nontender in all quadrants, no 
rebound/guarding, 
EXTREMITIES: hands contracted, clubbing of all fingers, moving 
all 4 extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, sensation intake, able to flex her toes 
upward and squeeze hands, MAE spontaneously  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM:
======================
VS: 98.0 104/56 70 18 96 RA 
GENERAL: NAD elderly appearing woman AAOx2 to self and hospital 
(baseline), sleeping comfortably on her left side
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
edentulous
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: no wheezes, crackles, or rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: mildly distended, +BS, nontender in all quadrants, no 
rebound/guarding, 
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, sensation intake, able to flex her toes 
upward and squeeze hands, MAE spontaneously  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
ADMISSION LABS:
=============
___ 07:30AM BLOOD WBC-6.3 RBC-4.21 Hgb-13.3 Hct-39.8 MCV-95 
MCH-31.6 MCHC-33.4 RDW-13.4 RDWSD-46.2 Plt ___
___ 07:30AM BLOOD Neuts-74.3* Lymphs-14.1* Monos-5.9 
Eos-4.3 Baso-0.8 Im ___ AbsNeut-4.68 AbsLymp-0.89* 
AbsMono-0.37 AbsEos-0.27 AbsBaso-0.05
___ 07:30AM BLOOD Glucose-254* UreaN-13 Creat-1.0 Na-131* 
K-7.8* Cl-100 HCO3-17* AnGap-22*
___ 12:50PM BLOOD Glucose-128* UreaN-14 Creat-1.0 Na-139 
K-4.3 Cl-104 HCO3-26 AnGap-13
___ 07:30AM BLOOD ALT-30 AST-80* AlkPhos-87 TotBili-0.3
___ 07:30AM BLOOD Lipase-53
___ 07:30AM BLOOD cTropnT-<0.01 proBNP-1681*
___ 12:50PM BLOOD cTropnT-0.05*
___ 07:27PM BLOOD cTropnT-0.03*
___ 07:30AM BLOOD Albumin-3.9
___ 07:40AM BLOOD Lactate-3.8* K-5.6*
___ 09:08AM BLOOD K-5.8*
___ 12:51PM BLOOD Lactate-1.3 K-4.6

DISCHARGE LABS:
=============
___ 12:41PM BLOOD WBC-6.3 RBC-3.99 Hgb-12.4 Hct-37.3 MCV-94 
MCH-31.1 MCHC-33.2 RDW-13.4 RDWSD-46.2 Plt ___
___ 04:35PM BLOOD Glucose-129* UreaN-16 Creat-1.0 Na-140 
K-4.6 Cl-103 HCO3-25 AnGap-17
___ 12:41PM BLOOD CK-MB-3 cTropnT-0.04*
___ 04:35PM BLOOD CK-MB-3 cTropnT-0.02*
___ 04:35PM BLOOD Calcium-8.7 Phos-3.8 Mg-1.8

STUDIES/REPORTS:
==============
___ CXR
FINDINGS:  
AP and lateral views of the chest provided. 
There is no focal consolidation, effusion, or pneumothorax.  The 

cardiomediastinal silhouette is moderately enlarged and stable.  
The hila and pleura unremarkable. Old healed right lateral rib 
fractures are noted.  No free air below the diaphragm is seen. 
IMPRESSION:  
No acute intrathoracic process. 

___ PFTS
IMPRESSION
MECHANICS: The FVC is moderately reduced. The reduction in FEV1 
is moderately severe. The FEV1/FVC ratio is normal.
FLOW-VOLUME LOOP: Moderately reduced flows and volume with an 
abrupt and very early termination of exhalation.
Impression:
Although results are consistent with a restrictive ventilatory 
defect the FVC is likely underestimated due to an early 
termination of exhalation and for this reason an obstructive 
component cannot be excluded. Suggest lung volume measurements 
if clinically indicated. Compared to the prior study of ___ 
there has been no
significant change in FVC and FEV1.

___ TTE
The left ventricular cavity size is normal. Overall left 
ventricular systolic function is normal (LVEF = 60%). However, 
the posterior wall appears hypokinetic. Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
is not well seen. There is no aortic valve stenosis. Mild (1+) 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Trivial mitral regurgitation is seen. The left 
ventricular inflow pattern suggests impaired relaxation. There 
is no pericardial effusion. 
Compared with the prior study (images reviewed) of ___, the 
left ventricular ejection fraction is increased.  
 
___ CORONARY ANGIOGRAM
The ___ had a focal 10% stenosis.  The LAD had mild diffuse 
disease. The left circumflex artery had 50% in-stent restenosis. 
The RCA had a 50-60% in-stent restenosis. 
 
Brief Hospital Course:
___ is an ___ with PMHx HTN, HLD, CAD status post NSTEMI with 
stent placement to LCx and RCA ___ and history of asthma/COPD 
presenting with chest pain and dyspnea thought to be related to 
uncontrolled asthma. 

# Chest Pain
# Dyspnea
# COPD/Asthma
Patient presented with dyspnea and chest pain described as 
pressure with associated wheezing. Her constellation of symptoms 
are identical to her previous asthma exacerbations, including 
her chest pain which occur ___ per month and have not been 
escalating in severity or tempo. Per the patient and her family, 
her current presentation is similar to her last admission in 
___ during which time she was treated for an 
asthma/COPD exacerbation. Her triggers for asthma include the 
cold air. Upon evaluation inpatient, she was not wheezing and 
was HDS satting well on room air. She denied wheezing and 
dyspnea during her hospitalization. She was afebrile, without 
infectious symptoms and without a leukocytosis. CXR was clear. 
BNP 1681 on admission however similar to prior levels and 
history and exam do not suggest volume overload. Do not suspect 
her chest pressure or dyspnea symptoms reflect ACS including 
unstable angina. TNT peaked at 0.05 and EKG without ischemic 
changes. She denied worsening in her dyspnea or chest pain 
symptoms and denies dyspnea with exertion. The most likely 
explanation of her constellation of symptoms include poorly 
controlled reactive airway disease in setting of COPD/asthma. 
Because she had a clear lung exam and lack of increasing cough 
or sputum and was asymptomatic on the floor, her presentation 
was not thought to be a true exacerbation. Per her outpatient 
pulmonologist, her outpatient regimen includes albuterol, 
ipratroium and budesonide nebulizers three times daily given 
patient is unable to take deep breaths, has had difficulty with 
taking inhaled corticosteroids or bronchodilators, and thus a 
nebulizer is the best way to deposit her medications. She wad 
discharged with pulmology follow up and cardiology follow up. 
Given her report of chest pressure, it is reasonable to consider 
an outpatient street test to further evaluate. In an effort to 
reduce future hospitalizations, budesonide was increased to 1.0 
mg nebulizer TID. 

# Type II NSTEMI
Peak TNT 0.05. EKG was without evidence of ischemia. Likely 
demand type II. Possibly due to elevated blood pressures to SBP 
~190/110 on admission in the setting of feeling short of breath.

# Lactic Acidosis, resolved. 
Likely secondary to nebulizer treatments.

# HTN:
Presented with hypertensive urgency SBP 190/110 before receiving 
AM meds and in the setting of patient being dyspneic. Home 
losartan, metoprolol and imdur were continued. 

CHRONIC ISSUES:
# CAD/HFpEF, compensated: History of stent LCx and RCA ___. EF 
preserved. Continued statin and plavix.
# Bilateral Peripheral Neuropathy: Continued gabapentin.
# Insomnia: Continued remeron.
# Constipation: Continued home bowel regimen. 
# OA: Continued home APAP prn. 
# HLD: Continued statin.

TRANSITIONAL ISSUES:
=================
MEDICATION CHANGES
--> Increased budesonide nebulizer to 1 mg TID

- Please ensure patient follows with Pulmonology and Cardiology 
as scheduled.
- Given her report of chest pressure, it is reasonable to 
consider an outpatient stress test to further evaluate given her 
history of CAD. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN dyspnea 
2. Atorvastatin 80 mg PO QPM 
3. budesonide 0.5 mg inhalation TID 
4. Clopidogrel 75 mg PO DAILY 
5. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
6. Gabapentin 300 mg PO QHS 
7. Ipratropium-Albuterol Neb 1 NEB NEB TID wheezing/dyspnea 
8. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
9. Losartan Potassium 25 mg PO DAILY 
10. Metoprolol Succinate XL 25 mg PO DAILY 
11. Mirtazapine 15 mg PO QHS 
12. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
13. Polyethylene Glycol 17 g PO DAILY 
14. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
15. Aspirin 81 mg PO DAILY 
16. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 
17. carboxymethylcellulose sodium 0.25 % ophthalmic QID 
18. Docusate Sodium 100 mg PO BID 
19. Multi-Day with Iron (multivitamin-iron-folic acid) ___ 
mg-mcg oral DAILY 
20. Senna 8.6 mg PO QHS:PRN constipation 

 
Discharge Medications:
1.  budesonide 1 mg inhalation TID 
RX *budesonide 1 mg/2 mL 1 mg inhaled three times per day Disp 
#*45 Ampule Refills:*0 
2.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID  
6.  carboxymethylcellulose sodium 0.25 % ophthalmic QID  
7.  Clopidogrel 75 mg PO DAILY  
8.  Docusate Sodium 100 mg PO BID  
9.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
10.  Gabapentin 300 mg PO QHS  
11.  Ipratropium-Albuterol Neb 1 NEB NEB TID wheezing/dyspnea  
12.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
13.  Losartan Potassium 25 mg PO DAILY  
14.  Metoprolol Succinate XL 25 mg PO DAILY  
15.  Mirtazapine 15 mg PO QHS  
16.  Multi-Day with Iron (multivitamin-iron-folic acid) ___ 
mg-mcg oral DAILY  
17.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
18.  Polyethylene Glycol 17 g PO DAILY  
19.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN dyspnea  
20.  Senna 8.6 mg PO QHS:PRN constipation  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Dyspnea
Asthma/COPD

Secondary Diagnosis:
Type II NSTEMI
CAD s/p PCI to ___ and RCA ___
Constipation
HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
===============================
- You were having trouble breathing.

WHAT WAS DONE FOR ME WHILE I WAS HERE?
==================================
- You were given nebulizer treatments which helped your 
breathing

WHAT SHOULD YOU DO NEXT?
======================
- Please take all your medicines as prescribed.
- Please follow up with your pulmonologist (lung doctor) as 
scheduled.
- Please follow up with your cardiologist (heart doctor) as 
scheduled.
- Please follow up with your primary care doctor as scheduled. 
- We increased your inhaled budesonide to 1.0 mg three times per 
day

We wish you the best,

Your ___ Care Team
 
Followup Instructions:
___